US07906660B2
3′,7-Diacetoxy-8-methylisoflavan-4-ol was prepared from 3′,7-diacetoxy-8-methylisoflavone (0.25 g, 0.7 mmol) in methanol (50 ml) using palladium-on-charcoal (5%, 0.06 g) by the method described above.

reactant | 3′,7-diacetoxy-8-methylisoflavone | 0.7 mmol, 0.25 g | C(C)(=O)OC=1C=C(C2=COC3=C(C(=CC=C3C2=O)OC(C)=O)C)C=CC1 | C20H16O6
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.06 g | [Pd] | Pd
product | 3′,7-Diacetoxy-8-methylisoflavan-4-ol | C(C)(=O)OC=1C=C(C2COC3=C(C(=CC=C3C2O)OC(C)=O)C)C=CC1 | C20H20O6
